US06479487B1
1-(3-Chlorobenzyl)-4-piperidone is prepared from 4-piperidone and 3-chlorobenzyl chloride essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 3-chlorobenzyl chloride | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
product | 1-(3-Chlorobenzyl)-4-piperidone | ClC=1C=C(CN2CCC(CC2)=O)C=CC1 | C12H14ClNO
